US07102000B2
To a solution of 2-(2-fluoro-4-methoxy-phenyl)-[1,3] dioxolane (4.27 g, 21.54 mmol) in anhydrous THF (30 mL) was added, at −78° C. under argon, n-BuLi (1.6 M in hexane, 13.5, 21.54 mmol). The resulting orange solution was stirred at −78° C. for 2 hours then iodine (6.015 g, 23.70 mmol) in THF (30 mL) was added. At the end of the addition the reaction mixture was warmed to room temperature and stirred for 1 hr. The solution was extracted with ethyl acetate. The organic phase was washed successively with 10% aqueous sodium thiosulfate (2×50 mL), water, brine and dried (MgSO4), filtered and evaporated to give 5.794 g of crude 2-(2-fluoro-3-iodo-4-methoxy-phenyl)-[1,3] dioxolane. use as this in the next step.

reactant | 2-(2-fluoro-4-methoxy-phenyl)-[1,3] dioxolane | 21.54 mmol, 4.27 g | FC1=C(C=CC(=C1)OC)C1OCCO1 | C10H11FO3
reactant | n-BuLi | 21.54 mmol, 1.6 M | [Li]CCCC
reactant | iodine | 23.70 mmol, 6.015 g | II | I2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(2-fluoro-3-iodo-4-methoxy-phenyl)-[1,3] dioxolane | 5.794 g | FC1=C(C=CC(=C1I)OC)C1OCCO1 | C10H10FIO3
